US09382238B2
To a mixture of 5,5,5-trifluoro-4,4-dimethyl-3-oxopentanenitrile (1 g, 5.58 mmol) and hydroxylamine hydrochloride (0.407 g, 5.86 mmol) in water (30 mL) was added NaOH (0.447 g, 11.16 mmol). Then the mixture was stirred at 100° C. for 3 h. After cooling to rt, the mixture was extracted with DCM (50 mL×3). The organic layer was dried over Na2SO4, filtered and concentrated to yield a light yellow solid of 3-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-5-amine (700 mg, 3.39 mmol, 61% yield): 1H NMR (400 MHz, CDCl3) δ 5.17 (s, 1H), 4.41 (s, 2H), 1.49 (s, 6H); ES-LCMS m/z 195 (M+H).

reactant | 5,5,5-trifluoro-4,4-dimethyl-3-oxopentanenitrile | 5.58 mmol, 1 g | FC(C(C(CC#N)=O)(C)C)(F)F | C7H8F3NO
reactant | hydroxylamine hydrochloride | 5.86 mmol, 0.407 g | Cl.NO
reactant | NaOH | 11.16 mmol, 0.447 g | [OH-].[Na+]
solvent | water | 30 mL | O | H2O
product | 3-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-5-amine | 3.39 mmol, 700 mg, 61% yield | FC(C(C)(C)C1=NOC(=C1)N)(F)F | C7H9F3N2O
